US07045532B2
2-{1-carboxy-2-[2-(3,5-dichlorobenzyl)-2H-pyrazol-3-yl]-ethylamino}-4-methyl-pentanoic acid. 3-Methyl pyrazole (20 g, 243.6 mmol) was dissolved in acetonitrile (250 mL) and the resulting solution was cooled to 0° C. 4-dimethylaminopyridine (2.98 g, 24.4 mmol) and di-tert-butyl dicarbonate (63.8 g, 292.3 mmol) were added sequentially, and the reaction mixture was allowed to warm to room temperature over 2 hours. The reaction mixture was diluted with ethyl acetate and extracted with 1N aqueous HCl solution, saturated NaHCO3 solution, and brine. The organic phase was dried over Na2SO4, filtered and concentrated to give 42.3 g of 3-methyl pyrazole 1-carboxylic acid tert-butyl ester as a colorless oil (95% yield). 1H NMR was consistent with desired product.

reactant | 2-{1-carboxy-2-[2-(3,5-dichlorobenzyl)-2H-pyrazol-3-yl]-ethylamino}-4-methyl-pentanoic acid | C(=O)(O)C(CC=1N(N=CC1)CC1=CC(=CC(=C1)Cl)Cl)NC(C(=O)O)CC(C)C | C19H23Cl2N3O4
reactant | 3-Methyl pyrazole | 243.6 mmol, 20 g | CC1=NNC=C1 | C4H6N2
reactant | di-tert-butyl dicarbonate | 292.3 mmol, 63.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 24.4 mmol, 2.98 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methyl pyrazole 1-carboxylic acid tert-butyl ester | 42.3 g, 95% yield | C(C)(C)(C)OC(=O)N1N=C(C=C1)C | C9H14N2O2
